US09315521B2
2-{[(2-chloro-4-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
To a 0° C. mixture of 2-{[(2-chloro-4-methoxyphenyl)methyl]sulfanyl}-6-methyl-pyrimidin-4-ol (500 mg, 1.7 mmol) in anhydrous dichloromethane (20 mL) was added a solution of boron tribromide (1 M in THF, 2 mL, 2 mmol). The solution was stirred at room temperature overnight. Water (20 mL) and more dichloromethane (50 mL) were added to the mixture. The undissolved solid material was recovered by filtration, washed with diethyl ether (2×25 mL), and dried in vacuo. The crude product was purified by flash chromatography (0-10% MeOH/CH2Cl2), affording the title compound (65 mg, 13% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.22 (s, 3H), 4.37 (s, 2H), 6.00 (s (br), 1H), 6.70 (dd, 1H, J=2.3 Hz, 8.4 Hz), 6.84 (d, 1H, J=2.3 Hz), 7.40 (d, 1H, J=8.6 Hz), 9.96 (s, 1H); M+283; HPLC purity: 98.0%.

reactant | 2-{[(2-chloro-4-methoxyphenyl)methyl]sulfanyl}-6-methyl-pyrimidin-4-ol | 1.7 mmol, 500 mg | ClC1=C(C=CC(=C1)OC)CSC1=NC(=CC(=N1)O)C | C13H13ClN2O2S
reactant | boron tribromide | 2 mmol, 1 M, 2 mL | B(Br)(Br)Br | BBr3
reactant | Water | 20 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-{[(2-chloro-4-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 65 mg, 13% yield | ClC1=C(C=CC(=C1)O)CSC1=NC(=CC(=N1)O)C | C12H11ClN2O2S
